US07119200B2
3-(Hydroxymethyl)-1-methylpiperidine (2 g, 15.5 mmoles) was dissolved in anhydrous acetonitrile (32 mL) and anhydrous pyridine (2.02 mL, 24.8 mmoles) was added and the solution was cooled to 0° C. Dibromotriphenylphosphorane (8.49 g, 20.2 mmoles) was added at 0° C. and the mixture was allowed to warm up to 25° C. and was stirred for 94 h. The mixture was evaporated to dryness and the residue was chromatographed on a silica gel column (30×5 cm) using gradient elution with dichloromethane, 35% diethyl ether in dichloromethane and 5–10% methanol in dichloromethane as the eluant to give 3-(bromomethyl)-1-methylpiperidine (3.13 g, 100%): FABMS: m/z 192.1 (MH+); δH (CDCl3) 1.52 (1H, m, CH2), 1.99 (2H, m, CH2), 2.43 (1H, m, CH2), 2.75 (2H, m, CH2), 2.82 (1H, m CH), 2.86/2.88 (3H, s, NCH3), 3.42/3.49 (2H, dd, —CH2Br) and 3.56 ppm (2H, m, CH2); δC (CDCl3) CH3: 44.3; CH2: 22.1, 26.6, 35.4, 54.8, 58.2; CH: 34.6.

reactant | 3-(Hydroxymethyl)-1-methylpiperidine | 15.5 mmoles, 2 g | OCC1CN(CCC1)C | C7H15NO
reactant | pyridine | 24.8 mmoles, 2.02 mL | N1=CC=CC=C1 | C5H5N
reactant | Dibromotriphenylphosphorane | 20.2 mmoles, 8.49 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | acetonitrile | 32 mL | C(C)#N | C2H3N
product | 3-(bromomethyl)-1-methylpiperidine | 3.13 g, 100% | BrCC1CN(CCC1)C | C7H14BrN
